US07351826B2
G. 2,5-Difluoro-N-isobutyl-N-(3-methyl-7-propyl-[1,2,4]triazolo[4,3-B]pyridazin-6-ylmethyl)-benzamide
A solution of 2,5-difluoro-N-(6-hydrazinopropyl-pyridazin-3-ylmethyl)-N-isobutyl-benzamide (63 mg, 0.17 mmol) in HOAc (3 ml) is heated at 110° C. overnight. The solvent is removed in vacuo and to the residue is added EtOAc (10 ml) and saturated NaHCO3 aqueous solution (10 ml). The layers are separated and the aqueous layer is extracted with EtOAc (10 ml). The combined extracts are washed with brine (10 ml), dried (Na2SO4) and evaporated in vacuo. Preparative TLC separation of the residue with 5% MeOH in CH2Cl2 provides the title compound as a light yellow oil. 1H NMR (CDCl3) (mixture of rotamers) 7.79 (s, 0.75H), 7.71 (s, 0.25H), 6.95-7.12 (m, 3H), 4.91 (s, 1.5H), 4.62 (s, 0.5H), 3.17 (d, 2H), 2.81 (s, 0.75H), 2.79 (s, 2.25H), 2.69 (t, 1.5H), 2.39 (t, 0.5H), 2.06-2.17 (m, 0.25H), 1.91-2.01 (m, 0.75H), 1.72-1.82 (m, 1.5H), 1.45-1.55 (m, 0.5H), 1.08 (t, 2.25H), 1.00 (d, 4.5H), 0.93 (t, 0.75H), 0.82 (d, 1.5H).

reactant | 2,5-difluoro-N-(6-hydrazinopropyl-pyridazin-3-ylmethyl)-N-isobutyl-benzamide | 0.17 mmol, 63 mg | FC1=C(C(=O)N(CC(C)C)CC=2N=NC(=CC2)CCCNN)C=C(C=C1)F | C19H25F2N5O
solvent | HOAc | 3 ml | CC(=O)O | C2H4O2
product | 2,5-Difluoro-N-isobutyl-N-(3-methyl-7-propyl-[1,2,4]triazolo[4,3-B]pyridazin-6-ylmethyl)-benzamide | FC1=C(C(=O)N(CC=2C(=CC=3N(N2)C(=NN3)C)CCC)CC(C)C)C=C(C=C1)F | C21H25F2N5O
